US08957080B2
Into a 100 mL round-bottom flask, was placed a solution of tert-butyl (3R)-3-[4-amino-3-(2-fluoro-4-phenoxyphenyl)-1H-pyrazolo[3,4-d]pyrimidin-1-yl]piperidine-1-carboxylate (320 mg, 0.63 mmol, 1.00 equiv) in dichloromethane (50 mL). This was followed by the addition of trifluoroacetic acid (10 mL) dropwise with stirring. The resulting solution was stirred overnight at room temperature and then concentrated under vacuum. The residue was diluted with water and the pH value of the solution was adjusted to >7 with sodium carbonate. The resulting solution was extracted with dichloromethane and the organic layers combined and dried over anhydrous sodium sulfate and concentrated under vacuum to give 190 mg (74%) of 3-(2-fluoro-4-phenoxyphenyl)-1-[(3R)-piperidin-3-yl]-1H-pyrazolo[3,4-d]pyrimidin-4-amine as a brown solid.

reactant | tert-butyl (3R)-3-[4-amino-3-(2-fluoro-4-phenoxyphenyl)-1H-pyrazolo[3,4-d]pyrimidin-1-yl]piperidine-1-carboxylate | 0.63 mmol, 320 mg, 1.00 equiv | NC1=C2C(=NC=N1)N(N=C2C2=C(C=C(C=C2)OC2=CC=CC=C2)F)[C@H]2CN(CCC2)C(=O)OC(C)(C)C | C27H29FN6O3
reactant | trifluoroacetic acid | 10 mL | FC(C(=O)O)(F)F | C2HF3O2
solvent | dichloromethane | 50 mL | ClCCl | CH2Cl2
product | 3-(2-fluoro-4-phenoxyphenyl)-1-[(3R)-piperidin-3-yl]-1H-pyrazolo[3,4-d]pyrimidin-4-amine | 190 mg, 74% | FC1=C(C=CC(=C1)OC1=CC=CC=C1)C1=NN(C2=NC=NC(=C21)N)[C@H]2CNCCC2 | C22H21FN6O
